US07465731B2
To a solution of (2E)-3-(4-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}phenyl)acrylic acid (936 mg, crude) in DMF (10 mL) was added was added O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (442 mg), HOBt (588 mg), and EDCI (676 mg) and the resulting mixture was stirred at ambient temperature for 3 hours. The reaction mixture was diluted with water and extracted with AcOEt. The organic phase was washed with sat NH4Cl aq solution, sat NaHCO3 aq solution, and brine, and dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by preparative thin layer chromatography (chloroform:methanol=10:1) to give (2E)-3-(4-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}phenyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (945 mg) as pale yellow form.

reactant | (2E)-3-(4-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}phenyl)acrylic acid | 936 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=CC=C(C=C1)/C=C/C(=O)O | C20H22N2O2
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 442 mg | O1C(CCCC1)ON | C5H11NO2
reactant | HOBt | 588 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 676 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (2E)-3-(4-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}phenyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 945 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=CC=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C25H31N3O3
